US07893056B2
4,6-Dichloro-5-fluoro-2-methylpyrimidine (180 mg, 1 mmol) was dissolved in 1 mL of DMSO and stirred at room temperature. (1,3-Thiazol-2-ylmethyl)amine (124 mg, 1.1 mmol) was added, followed by triethylamine (150 μL, 1.1 mmol). The resulting reaction mixture was stirred for 3 h, then hydrazine was added (1.0 mL), and the contents were heated to 60° C. for 1.5 h. The reaction mixture was then cooled to room temperature and purified by RP-HPLC to provide 5-fluoro-4-hydrazino-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]pyrimidine (97 mg, 38%). LCMS: (M+H)+: 255.2.

reactant | 4,6-Dichloro-5-fluoro-2-methylpyrimidine | 1 mmol, 180 mg | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | (1,3-Thiazol-2-ylmethyl)amine | 1.1 mmol, 124 mg | S1C(=NC=C1)CN | C4H6N2S
reactant | triethylamine | 1.1 mmol, 150 μL | C(C)N(CC)CC | C6H15N
reactant | hydrazine | NN | H4N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-fluoro-4-hydrazino-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]pyrimidine | 97 mg, 38% | FC=1C(=NC(=NC1NCC=1SC=CN1)C)NN | C9H11FN6S
